US03981886
2-Amino-1,3-bis[(2-bromo-4-chlorophenoxy)methyl]-1H-benzimidazol-3-ium chloride
A mixture of 1.00 g (0.00745 mol) of 2-aminobenzimidazole and 1.91 g (0.00745 mol) of 2-bromo-4-chlorophenyl chloromethyl ether in 5 ml of sulfolane is allowed to stand at room temperature for 22 hours. A solid precipitate forms within 5 minutes of mixing the two reagents. The product mixture is diluted with 10 ml of cold 2-propanol, and filtered, and the solid product is washed with two portions of cold 2-propanol. Drying in vacuo over P2O5 gives 2.28 g (100% crude yield) of the product as a white solid: mp 230° sinters, melts 233°-234° dec. The product is dissolved in 400 ml of hot 95% ethanol, and the solution is concentrated to a volume of 200 ml. The solution is allowed to cool slowly while precipitating a white floculant solid which is isolated from the chilled mixture to give 1.11 g (49% yield) of the named product: mp 235°-236°dec.

reactant | 2-aminobenzimidazole | 0.00745 mol, 1.00 g | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
reactant | 2-bromo-4-chlorophenyl chloromethyl ether | 0.00745 mol, 1.91 g | ClCOC1=C(C=C(C=C1)Cl)Br | C7H5BrCl2O
solvent | sulfolane | 5 ml | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | 2-propanol | 10 ml | CC(C)O | C3H8O
product | 2-Amino-1,3-bis[(2-bromo-4-chlorophenoxy)methyl]-1H-benzimidazol-3-ium chloride | [Cl-].NC1=[N+](C2=C(N1COC1=C(C=C(C=C1)Cl)Br)C=CC=C2)COC2=C(C=C(C=C2)Cl)Br | InChI=1S/C21H15Br2Cl2N3O2.ClH/c22-15-9-13(24)5-7-19(15)29-11-27-17-3-1-2-4-18(17)28(21(27)26)12-30-20-8-6-14(25)10-16(20)23;/h1-10,26H,11-12H2;1H
